US06995162B2
4-[1-(2-Bromo-4-nitro-phenyl)-1-methyl-ethyl]-1-methyl-1,2,3,6-tetrahydro-pyridine
4-[1-(2-Bromo-4-nitro-phenyl)-1-methyl-ethyl]-1-methyl-pyridiniumiodide was mixed with MeOH (400 ml) and CH2Cl2 (200 ml), then treated with NaBH4 (2.5 g) in portions. After stirring at RT for 2 h, the mixture was extracted with CH2Cl2 (300 mL×3). The CH2Cl2 layer was washed with brine, dried over Na2SO4 and concentrated in vacuo, to provide the desired product.

reactant | 4-[1-(2-Bromo-4-nitro-phenyl)-1-methyl-ethyl]-1-methyl-pyridiniumiodide | [I-].BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C1=CC=[N+](C=C1)C
reactant | MeOH | 400 ml | CO | CH4O
reactant | NaBH4 | 2.5 g | [BH4-].[Na+]
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-[1-(2-Bromo-4-nitro-phenyl)-1-methyl-ethyl]-1-methyl-1,2,3,6-tetrahydro-pyridine | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C=1CCN(CC1)C | C15H19BrN2O2
